US04976773
2-(4(3-Chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy)propionic acid 2-oxopropyl ester:
2-(4-(3-Chloro-5-trifluoromethyl-2-pyridyl-oxy)phenoxy) propionic acid (3.62 g) was dissolved in dimethylformamide (50 ml) and the solution was stirred with an addition of dicyclohexylamine (2.2 ml). The mixture was further stirred at a temperature of 60° C. for 3 hours. To the reaction mixture, 100 ml of water was added, followed by extracting with toluene. After washing with water, the mixture was dried over anhydrous magnesium sulfate, the solvent was distilled off under a reduced pressure, and the resultant oily product was subjected to silica gel medium pressure column chromatography (n-hexane/ethyl acetate=9/1 v/v%) to obtain 4.00 g of the title compound in the form of a colorless oily product (yield=96%).

reactant | 2-(4-(3-Chloro-5-trifluoromethyl-2-pyridyl-oxy)phenoxy) propionic acid | 3.62 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)O)C)C=C1 | C15H11ClF3NO4
reactant | dicyclohexylamine | 2.2 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(4(3-Chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy)propionic acid 2-oxopropyl ester | 4.00 g | O=C(COC(C(C)OC1=CC=C(C=C1)OC1=NC=C(C=C1Cl)C(F)(F)F)=O)C | C18H15ClF3NO5
